US08030311B2
Step 26.2: Dimethyl-[3-(4-nitro-2-trifluoromethyl-phenyl)-prop-2-ynyl]-amine
t-Bu3P (0.25 M in dioxane, 8.9 mL, 2.2 mmol, 0.2 equiv), 3-dimethylamino-1-propyne (FLUKA) (1.65 mL, 15.6 mmol, 1.4 equiv), and i-Pr2NH (2.0 mL, 14.4 mmol, 1.3 equiv) are added sequentially to a mixture of 5-nitro-2-bromobenzotrifluoride (ALDRICH) (3 g, 11.1 mmol), CuI (0.148 g, 0.78 mmol, 0.07 equiv), and Pd(PhCN)2Cl2 (0.427 g, 1.1 mmol, 0.1 equiv) in dioxane (10 mL). The reaction mixture is stirred for 48 h at rt. Then, Pd(PhCN)2Cl2 (0.100 g) is added. After stirring for additional 24 h, the reaction mixture is diluted with EtOAc and H2O and filtered through a pad of Celite. The filtrate is extracted with EtOAc. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. Purification of the crude material by silica gel column chromatography (CH2Cl2/NH3 (2 N in MeOH), 95:5) affords the title compound as a brown oil: ES-MS: 273.0 [M+H]+; single peak at tR=3.06 min (System 1); Rf=0.13 (CH2Cl2/NH3 (2 N in MeOH), 95:5).

reactant | t-Bu3P | 2.2 mmol, 0.25 M, 8.9 mL, 0.2 equiv | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 3-dimethylamino-1-propyne | 15.6 mmol, 1.65 mL, 1.4 equiv | CN(CC#C)C | C5H9N
reactant | i-Pr2NH | 14.4 mmol, 2.0 mL, 1.3 equiv | N(C(C)C)C(C)C | C6H15N
reactant | 5-nitro-2-bromobenzotrifluoride | 11.1 mmol, 3 g | [N+](=O)([O-])C=1C=CC(=C(C1)C(F)(F)F)Br | C7H3BrF3NO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | CuI | 0.78 mmol, 0.148 g, 0.07 equiv | [Cu]I
catalyst | Pd(PhCN)2Cl2 | 1.1 mmol, 0.427 g, 0.1 equiv | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | Pd(PhCN)2Cl2 | 0.100 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | Dimethyl-[3-(4-nitro-2-trifluoromethyl-phenyl)-prop-2-ynyl]-amine | CN(CC#CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C | C12H11F3N2O2
